US06953790B2
N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(pyridin-2-ylmethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.065 mL, 0.468 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(pyridin-2-ylmethyl)azepan-2-one (180 mg, 0.417 mmol) and 4-nitrophenyl chloroformate (94 mg, 0.468 mmol) in tetrahydrofuran (3 mL) at 0° C. After 1 h, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (136 mg, 0.468 mmol) and triethylamine (0.195 mL, 1.404 mmol) were added and the mixture allowed to warm to ambient temperature. After 18 h, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→95% dichloromethane/methanol (10% ammonium hydroxide/methanol)] gave the title compound (240 mg). The title compound was converted to the HCl salt with 2M HCl in ether. MS 576.3 (M+1). 1H NMR (500 MHz, CD3OD) δ 8.78 (d, J=5.9 Hz, 1H), 8.62-8.59 (m, 1H), 8.07 (d, J=8.3 Hz, 1H), 8.03-7.98 (m, 3H), 7.32 (dd, J=8.1 Hz, 6.1, 1H), 7.18-7.15 (m, 3H), 5.43 (d, J=16.9 Hz, 1H), 4.75 (d, J=17.1 Hz, 1H), 4.56-4.51 (m, 1H), 4.36-4.28 (m, 3H), 3.51 (d, J=15.1 Hz, 1H), 3.48 (s, 1H), 3.22-3.17 (m, 1H), 3.05-2.98 (m, 2H), 2.44-2.40 (m, 1H), 2.34-2.23 (m, 2H), 2.18-2.14 (m, 2H), 1.97-1.92 (m, 1H), 1.89-1.88 (m, 2H).

reactant | Triethylamine | 0.468 mmol, 0.065 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(pyridin-2-ylmethyl)azepan-2-one | 0.417 mmol, 180 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC1=NC=CC=C1)=O | C18H19F2N3O
reactant | 4-nitrophenyl chloroformate | 0.468 mmol, 94 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.468 mmol, 136 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 1.404 mmol, 0.195 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(pyridin-2-ylmethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 240 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC1=NC=CC=C1)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C30H31F2N7O3
